US08664220B2
Step 2: 2-Benzyl-5-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-[1,3,4]oxadiazole
Prepared according to the procedure described in Example 8, Step 6, using 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid hydrazide and phenylacetyl chloride.

reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid hydrazide | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)NN | C11H10BrN3O2
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | 2-Benzyl-5-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-[1,3,4]oxadiazole | C(C1=CC=CC=C1)C=1OC(=NN1)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C19H14BrN3O2
